US07691882B2
2-Methyl-6-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine
To a solution of 4-(6-methyl-pyridin-2-yloxymethyl)-benzaldehyde (4.19 g, 18.5 mmol) described in Manufacturing Example 3-1-2 in acetic acid (30 mL) were added nitromethane (5.65 g, 92.6 mmol) and ammonium acetate (2.85 g, 37.0 mmol) under nitrogen atmosphere, which was stirred for 3 hours at 110° C. The reaction mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure to obtain the title compound (5.50 g) as a crude product.

reactant | 4-(6-methyl-pyridin-2-yloxymethyl)-benzaldehyde | 18.5 mmol, 4.19 g | CC1=CC=CC(=N1)OCC1=CC=C(C=O)C=C1 | C14H13NO2
reactant | nitromethane | 92.6 mmol, 5.65 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 37.0 mmol, 2.85 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-Methyl-6-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | 5.50 g | CC1=NC(=CC=C1)OCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H14N2O3
